US07326791B2
(a) rac.-4-[2-(N-tert-butoxycarbonylaminomethyl)pyrrolidin-1-ylcarbonyl]-3-chlorobenzonitrile
Prepared analogously to Example I d from 2-chloro-4-cyanobenzoic acid, TBTU, N,N-diisopropylethylamine, and rac.-2-(N-tert-butoxycarbonylaminomethyl)pyrrolidine in tetrahydrofuran. Yield: quantitative; Rf value: 0.52 (silica gel; dichloromethane/ethanol=95:5); C18H22ClN3O3 (363.85); mass spectrum: (M+H)+=364/366 (chlorine isotope).

reactant | 2-chloro-4-cyanobenzoic acid | ClC1=C(C(=O)O)C=CC(=C1)C#N | C8H4ClNO2
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | rac.-2-(N-tert-butoxycarbonylaminomethyl)pyrrolidine | C(C)(C)(C)OC(=O)NCC1NCCC1 | C10H20N2O2
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | rac.-4-[2-(N-tert-butoxycarbonylaminomethyl)pyrrolidin-1-ylcarbonyl]-3-chlorobenzonitrile | Yield: quantitative | C(C)(C)(C)OC(=O)NCC1N(CCC1)C(=O)C1=C(C=C(C#N)C=C1)Cl | C18H22ClN3O3
